US04161594
1,3-Di-(β-hydroxy-n-propyl)-5-isopropylhydantoin
A mixture of 995.0 g of 5-isopropylhydantoin (7 mols), 2000 ml of dimethylformamide and 14.8 g of lithium chloride is stirred at 50° C. 1220 g of propene oxide (21 mols) are slowly added dropwise over the course of 6 hours. Thereafter the temperature is gradually raised at 70° C. and after a total of 15 hours the reaction mixture is allowed to cool. It is adjusted to pH = 7 with a few drops of 2 N H2SO4 and the pale yellow solution is filtered. The solution is completely concentrated at 90° C. bath temperature on a rotational evaporator under a waterpump vacuum and is subsequently treated at 90° C./0.1 mm Hg until constant weight is reached. 1654.5 g of a pale yellow highly viscous product (91.7% of theory) are obtained.

reactant | 5-isopropylhydantoin | 7 mols, 995.0 g | C(C)(C)C1C(NC(N1)=O)=O | C6H10N2O2
reactant | lithium chloride | 14.8 g | [Cl-].[Li+]
reactant | propene oxide | 21 mols, 1220 g | C1C(C)O1 | C3H6O
catalyst | H2SO4 | 2 N, a few drops | OS(=O)(=O)O | H2O4S
solvent | dimethylformamide | 2000 ml | CN(C=O)C | C3H7NO
product | 1,3-Di-(β-hydroxy-n-propyl)-5-isopropylhydantoin | OC(CN1C(=O)N(C(=O)C1C(C)C)CC(C)O)C | C12H22N2O4
